*********************************************************
** Cell name: Single-Ended Folded Cascode
** 
.subckt folded_cascode_ota gnd ibias vdd vin vip vout
xmnm7 net11  net11   gnd     gnd     nmos3v3 w='_wn7' l='_ln7' fingers='1*_nfn7'
xmnm8 net15  net11   gnd     gnd     nmos3v3 w='_wn8' l='_ln8' fingers='1*_nfn7'
xmnm2 net14  net27   gnd     gnd     nmos3v3 w='_wn2' l='_ln2' fingers='1*_nfn2'
xmnm3 net0124 vip    net14 net14     nmos3v3 w='_wn3' l='_ln3' fingers='1*_nfp3'
xmnm4 net0128 vin    net14 net14     nmos3v3 w='_wn4' l='_ln4' fingers='1*_nfn3'
xmnm6 vout   net31   net15 net15     nmos3v3 w='_wn6' l='_ln6' fingers='1*_nfn5'
xmnm5 net31  net31   net11 net11     nmos3v3 w='_wn5' l='_ln5' fingers='1*_nfn5'
xmnm1 net27  net27   gnd     gnd     nmos3v3 w='_wn1' l='_ln1' fingers='1*_nfn1'
xmpm4 net0128 net56  vdd     vdd     pmos3v3 w='_wp4' l='_lp4' fingers='1*_nfp3'
xmpm3 net0124 net56  vdd     vdd     pmos3v3 w='_wp3' l='_lp3' fingers='1*_nfp3'
xmpm6 vout   net27   net0128 net0128 pmos3v3 w='_wp6' l='_lp6' fingers='1*_nfp5'
xmpm0 net56  net56   ibias ibias     pmos3v3 w='_wp0' l='_lp0' fingers='1*_nfp0'
xmpm5 net31  net27   net0124 net0124 pmos3v3 w='_wp5' l='_lp5' fingers='1*_nfp5'
xmpm1 net27  net27   net56   net56   pmos3v3 w='_wp1' l='_lp1' fingers='1*_nfp1'
.ends
*********************************************************